US05234598
8 g of the precipitate was dissolved in 20 mL of 95% ethanol, 1 g of a catalyst having 5 wt. % Pd on a carbon support was added and hydrogenation of the N-methyl-3-nitroaniline was carried out at 50 psig (337 kPa gage) for about 10 minutes, during which time the temperature increased to about 70° C. The hydrogenated mixture was cooled to room temperature, filtered to recover the solids, which were then washed with methanol and the liquid filtrates combined. Finally, the liquids were concentrated under vacuum and distilled through a short path Kugelrohr oven at about 140° C. and 3 torr to produce a 96% yield of N-methyl m-phenylenediamine.

reactant | N-methyl-3-nitroaniline | CNC1=CC(=CC=C1)[N+](=O)[O-] | C7H8N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | N-methyl m-phenylenediamine | 96% yield | CNC1=CC(=CC=C1)N | C7H10N2
